US05420366
(1S,2S)-1-phenyl-1,2-cyclohexanediol
A 1-L flask equipped with a mechanical stirrer, was charged with 250 mL of t-BuOH, 250 mL of water, 70 g of AD-mix-α (Aldrich) and methanesulfonamide (4.75 g, 50 mmol). The mixture was cooled to 0° C. while stirring. 1-Phenyl-cyclohexene (Aldrich, 7.9 g, 7.95 ml, 50 mmol) was added at once and the mixture was stirred at 0° C. for 16 hours. Na2SO3 (75 g) was added at 0° C. and stirring continued for another two hours. After separation of layers, the aqueous phase was extracted with ethyl acetate (2×200 mL). Combined organic phase was washed with aqueous NaOH, dried over MgSO4, filtered, and concentrated to give the title compound as white solids (9.9 g, ee>97%). This diol could be further purified by column chromatography on silica gel (eluant: EtOAc/CH2Cl2, 1/2).

reactant | AD-mix-α | 70 g | CC[C@@H]1CN2CC[C@@H]1C[C@@H]2[C@@H](C3=C4C=C(C=CC4=NC=C3)OC)OC5=NN=C(C6=CC=CC=C65)O[C@@H]([C@H]7C[C@@H]8CCN7C[C@@H]8CC)C9=C1C=C(C=CC1=NC=C9)OC | C48H54N6O4
reactant | methanesulfonamide | 50 mmol, 4.75 g | CS(=O)(=O)N | CH5NO2S
reactant | 1-Phenyl-cyclohexene | 50 mmol, 7.95 ml, 7.9 g | C1(=CC=CC=C1)C1=CCCCC1 | C12H14
reactant | Na2SO3 | 75 g | [O-]S(=O)[O-].[Na+].[Na+]
solvent | water | 250 mL | O | H2O
solvent | t-BuOH | 250 mL | CC(C)(C)O | C4H10O
product | (1S,2S)-1-phenyl-1,2-cyclohexanediol | 9.9 g | C1(=CC=CC=C1)[C@@]1([C@H](CCCC1)O)O | C12H16O2
